Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Droperidol / Ceftin / Tegretol / Nitrate Analogues / Penicillins 
/ Prednisone / Compazine / Celebrex / Dilantin Kapseal / Tigan / 
Solu-Medrol / Ativan / Lidocaine / Iodine Containing Agents 
Classifier / Azithromycin / Bactrim DS / Biaxin / Levofloxacin / 
NOVOCAINE / polocaine / Mepivacaine / Rifaximin / aspirin / 
Iodinated Contrast Media - IV Dye / lisinopril
 
Attending: ___.
 
Chief Complaint:
weakness, hypokalemia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with the past
medical history noted below who presents with roughly three 
weeks
of malaise.  She was treated at that time for bronchitis, at an
urgent care, with levaquin, and recovered from that, at least in
terms of cough.  Her whole body has been weak, and tried taking 
a
walk over the weekend, and barely could make it through.  She
denies any shortness of breath,chest pain, palpitations.  
Her legs have been slightly crampy recently, but cannot discern
whether this is related to her normally active lifestyle, 
chasing
her grandchildren around, or an actual disease process.  Brief
nausea, that terminated on its own.  
Since the weakness was so persistent, she visited her primary
care doctor yesterday, who checked some basic labs, and
hypokalemia of 2.8 noted, and sent to the ED for repletion and
management.  

Since potassium repletion in the ED, and arrival on the floor,
she is mostly feeling better, and is hungry.  She hasn't been as
diligent with fluid intake as she should be.  

 
Past Medical History:
___ esophagus  
Gastroesophageal reflux  
History of seizures  
Hypertension  
Hypothyroidism (s/p thyroidectomy)  
History of left upper extremity DVT  
History of pseudotumor cerebri  
Renal stones  
History of mixed connective tissue disorder  
Sleep apnea  
Tracheomalacia  
Pancreatic insufficiency  
Multiple antibiotic allergies  
Irritable bowel  
 
Social History:
___
Family History:
Mother, sister, three aunts BRCA2 positive and all had breast 
cancer. The patient's mother, aunts, and some siblings have 
asthma. The patient's father died of lung cancer at age ___ and 
was a former smoker. Patient's sister has questionable lupus  
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 02:17PM   UREA N-20 CREAT-0.8 SODIUM-142 POTASSIUM-2.8* 
CHLORIDE-104 TOTAL CO2-18* ANION GAP-20*
___ 01:25PM   GLUCOSE-85 UREA N-18 CREAT-0.8 SODIUM-144 
POTASSIUM-3.9 CHLORIDE-112* TOTAL CO2-21* ANION GAP-11
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Ms. ___ is a ___ female with 
the
past medical history and findings noted above who presents with
lethargy, leg cramps and malaise.  Hypokalemic to 2.8 on labs,
and admitted for repletion. 

#Hypokalemia/Anion gap metabolic acidosis
-resolved with repletion (both PO and IV)
-she has been hypokalemic in the past, but never below 3.  
-She has IBS, and is on linzess, which causes loose stools, but
her bowel movements haven't sped up over the past few days.
-I suspect she isn't eating enough potassium rich foods, and
haven't discovered anything concerning on other labs.  
-monitor on telemetry
-check labs BID, could discharge tomorrow with potassium
supplementation and close outpatient follow up
-TSH WNL

CHRONIC/STABLE PROBLEMS:
# Mild connective tissue disease: Followed 
by rheumatology. She was continued on her home 
hydroxychloroquine during this admission.

# Hypertension:  Home losartan dose held, blood pressures 
consistently in the ___.  She was never symptomatic, and 
ambulating without dizziness or unsteadiness.  She may not 
require any BP meds as an outpatient, but would encourage BP to 
be followed going forward.  

# Gastroesophageal Reflux Disease:  continued on home dose of
omeprazole

# Gastroparesis: doesn't have her domperidone with her, but is
okay to be off of it.  

# Hypothyroidism: The patient was continued on her home 
Levothyroxine  during this admission.

# Pancreatic insufficiency: The patient has a history of 
pancreatic insufficiency, requiring pancreatic enzyme 
replacement therapy. As her home medication was not on 
formulary, she was continued on Creon with meals while inpatient 

and resumed on her home medications at time of discharge.

# Hyperlipidemia:  The patient was continued on her home 
atorvastatin during this admission.

# History of Pseudotumor Cerebrii: The patient was continued on 
her home acetazolamide during this admission.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. AcetaZOLamide 500 mg PO Q12H 
2. ALPRAZolam 0.5 mg PO DAILY:PRN anxiety 
3. Atorvastatin 20 mg PO QPM 
4. EpiPen 2-Pak (EPINEPHrine) 0.3 mg/0.3 mL injection ONCE 
MR1:PRN 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Hydrocortisone (Rectal) 2.5% Cream ___ID 
8. Hydroxychloroquine Sulfate 200 mg PO BID 
9. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
wheezing 
10. Levothyroxine Sodium 125 mcg PO DAILY 
11. Linzess (linaCLOtide) 290 mcg oral DAILY 
12. Pancreaze (lipase-protease-amylase) 21,000-54,700- 83,900 
unit oral TID W/MEALS 
13. Losartan Potassium 12.5 mg PO DAILY 
14. Omeprazole 40 mg PO BID 
15. Ranitidine 150 mg PO BID 
16. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
17. Cetirizine 10 mg PO QHS 
18. Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 
19. Lactobac 41-B.bifid,lactis-FOS 111 mg (25 billion cell) oral 
DAILY 
20. Neilmed Sinus Rinse Complete (sod chlor-bicarb-squeez 
bottle)    nasal BID 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  AcetaZOLamide 500 mg PO Q12H  
3.  ALPRAZolam 0.5 mg PO DAILY:PRN anxiety  
4.  Atorvastatin 20 mg PO QPM  
5.  Cetirizine 10 mg PO QHS  
6.  EpiPen 2-Pak (EPINEPHrine) 0.3 mg/0.3 mL injection ONCE 
MR1:PRN  
7.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
8.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
9.  Hydrocortisone (Rectal) 2.5% Cream ___ID  
10.  Hydroxychloroquine Sulfate 200 mg PO BID  
11.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild  
12.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
wheezing  
13.  Lactobac 41-B.bifid,lactis-FOS 111 mg (25 billion cell) 
oral DAILY  
14.  Levothyroxine Sodium 125 mcg PO DAILY  
15.  Linzess (linaCLOtide) 290 mcg oral DAILY  
16.  Losartan Potassium 12.5 mg PO DAILY  
17.  Neilmed Sinus Rinse Complete (sod chlor-bicarb-squeez 
bottle)    nasal BID  
18.  Omeprazole 40 mg PO BID  
19.  Pancreaze (lipase-protease-amylase) 21,000-54,700- 83,900 
unit oral TID W/MEALS  
20.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypokalemia

 
Discharge Condition:
ambulatory, clear mentation, tolerating diet. 

 
Discharge Instructions:
You were admitted with low potassium levels in your blood.  
After intravenous and oral repletion, the levels returned to 
within the normal range.  Suspicion is that you may not be 
eating enough potassium on a daily basis, you can do so by 
eating more potassium rich foods, like bananas, potatoes and 
tomatoes.  Please see your primary care doctor early next week 
for follow up labs.  
Your blood pressures remained in the high ___, and we held 
losartan.  We did not find any abnormalities, either on labs or 
physical exam, that could explain this.  Please discuss with 
your PCP about whether or not you still need this medication, 
and if anything must be done further, as an outpatient.  

We are happy that you are feeling better, and hope you continue 
to do well. 

 
Followup Instructions:
___